US06492394B1
To a solution of 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3-tert-butoxypropionic acid (2.79 g, 7.5 mmol) in 70% methanol/methylene chloride (50 mL) at 0° C. was added 1M trimethylsilyldiazomethane in hexanes (22.5 mL, 23 mmol). After 45 min., the reaction mixture was concentrated and chromatographed using preparative chromatography (9% ethyl acetate-hexanes) to afford 2(R)-(4-methoxy-2,3,6-trimethyl-benzenesulfonylamino)-3-tert-butoxypropionic acid methyl ester (2.4 g).

reactant | 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3-tert-butoxypropionic acid | 7.5 mmol, 2.79 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)N[C@@H](C(=O)O)COC(C)(C)C)C)C | C17H27NO6S
reactant | trimethylsilyldiazomethane | 1M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol methylene chloride | 50 mL | CO.C(Cl)Cl
product | 2(R)-(4-methoxy-2,3,6-trimethyl-benzenesulfonylamino)-3-tert-butoxypropionic acid methyl ester | 2.4 g | COC([C@@H](COC(C)(C)C)NS(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=O | C18H29NO6S
